US07692005B2
5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 128 mg, 0.288 mmol) and THF (3.0 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (54.8 mg, 0.286 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and diluted with EtOAc (˜5 mL) and Hexane (˜40 mL). The precipitate that formed was collected by filtration and washed with 0° C. iPrOH (˜10 mL) to afford the title compound in 29% yield (0.051 g, 0.083 mmol).

reactant | 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.288 mmol, 128 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C(C)(C)C)C)=O | C25H24N4O4
reactant | THF | 3.0 mL | C1CCOC1 | C4H8O
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.286 mmol, 54.8 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | EtOAc | ˜5 mL | CCOC(=O)C | C4H8O2
solvent | Hexane | ˜40 mL | CCCCCC | C6H14
product | 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 29% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C(C)(C)C)C)=O | C36H39N7O3
